Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Motrin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ - 1. Replacement of ascending aorta and arch aorta 
with a 30 mm Gelweave Medusa graft. 2. Closure of atrial septal 
defect.
___ - Mediastinal re-exploration
 
History of Present Illness:
Mr. ___ is a ___ year old man with a recently diagnosed type 
B dissection presents with 1 month of SOB, on/off chest pain 
with acute worsening for 12 hrs, CTA consistent with type A 
dissection. Patient was in ___ in ___ for ___, 
experienced on/off chest pain radiating to his jaw and dyspnea 
and per report and limited records, was found to have a 
descending aortic dissection with an intramural hematoma 
extending retrogradely into the aortic root, was transferred to 
___ where he was hospitalized for almost one month 
from end of ___ to ___ and per the patient and limited 
records, repair was deferred due to his coagulopathy of 
persistently elevated INR ~2.0 refractory to vit K and FFP and 
was presumed to have factor VII deficiency. During his workup at 
___ aside from his dissection, he was found to have 12mm R 
renal mass, multiple hepatic cysts, he was found to have PFO 
which was closed. He also reports he was diagnosed with PNA 
while at ___ and was treated with Levoquin (last dose 
yesterday). Patient was discharged on ___ and back home to 
___. He reports, his symptoms improved with just on/off chest 
discomfort since he came back however starting last night had 
acute onset of chest pain radiating to his jaw. No other 
associated symptoms. He presented to ___ where he was 
hemodynamically stable, labs notable for Hct 32, Cre 1.2, INR 
1.9. Given his hx of a dissection, he was transferred to ___ 
for further eval. Upon arrival, he was hemodynamically stable 
with SBP 140s, CTA showed Type A dissection which extends from 
the root to the level of the SMA. He otherwise denies any 
fevers, chill, weight loss, lightheadedeness, GI symptoms, 
dysuria, etc.
 
Past Medical History:
Aortic Dissection, Type B diagnosed in ___ at ___ 
___ Accident, ___
Gout
Hypertension
Patent Foramen Ovale status post closure

 
Social History:
___
Family History:
no known hx of MI, cancer
 
Physical Exam:
98.9  57 125/72 19 99% 2L NC

GEN: NAD, A&Ox3
PULM: CTAB
CV: RRR, no M/R/G
ABD: soft, nontender,nondistended, no scars, masses
EXT: WWP, palpable bilateral femorals and ___, DP
 
Pertinent Results:
Chest CTA ___: 
Type A aortic dissection. Suspected hemopericardium and 
hemomediastinum are worrisome for possible rupture without 
evidence of active extravasation.

Transesophageal Echocardiogram (Intraoperative) ___ 
Pre Bypass: The left atrium is mildly dilated. No thrombus is 
seen in the left atrial appendage. An atrial septal defect is 
present. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is moderately dilated at the sinus level. The 
ascending aorta is moderately dilated. The aortic arch is 
moderately dilated. A mobile density is seen in the ascending 
aorta consistent with an intimal flap/aortic dissection that 
descends through the descending thoracic aorta. A mobile density 
is seen in the descending aorta consistent with an intimal 
flap/aortic dissection. There are three aortic valve leaflets. 
There is no aortic valve stenosis. Mild to moderate (___) 
aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. The tricuspid 
regurgitation jet is eccentric and may be underestimated. There 
is a small pericardial effusion. Post Bypass: Patient is 
Ventricularly paced on vasopressin and norepinepherine 
infusions. LVEF 50% with septal dyskinesis c/w pacing. There is 
a graft seen in the ascending aorta above the sinotubular 
junction with laminary flow through the arch. A residual flap is 
visualized in the descending thoracic aorta. There is eccentric 
aortic insufficiency which is at worst moderate. The atrial 
septal defect is no longer detectable and the atrial septum has 
changes consistent with patching. Remaining exam is unchanged. 
All findings discussed with surgeons at the time of the exam.

Upper Extremity Ultrasound ___
No evidence of deep vein thrombosis in the left upper extremity. 
 The cephalic vein is not visualized. Significant soft tissue 
edema in the left upper extremity. 

___ 05:47AM BLOOD WBC-9.3 RBC-2.95* Hgb-8.3* Hct-25.9* 
MCV-88 MCH-28.1 MCHC-32.0 RDW-16.0* RDWSD-51.9* Plt ___
___ 05:47AM BLOOD ___ PTT-30.2 ___
___ 02:01AM BLOOD ___
___ 05:47AM BLOOD Glucose-80 UreaN-13 Creat-1.0 Na-137 
K-4.0 Cl-103 HCO3-25 AnGap-13
___ 04:52PM BLOOD ALT-47* AST-41* LD(LDH)-236 AlkPhos-58 
Amylase-93 TotBili-0.4 DirBili-0.2 IndBili-0.2
 
Brief Hospital Course:
Mr. ___ presented to ___ with chest pain. Given his 
past medical history of aortic dissection, he was transferred to 
___ for surgical evaluation. Upon arrival he underwent a chest 
CTA which showed a Type A dissection extending from the root to 
the level of the SMA. He was emergently taken to the operating 
room where he underwent replacement of ascending aorta and arch 
aorta, and closure of atrial septal defect. Please see operative 
note for surgical details. Following surgery he was transferred 
to the CVICU for invasive monitoring in stable condition. He has 
a presumed factor 7 deficiency and was given multiple blood 
products in the OR and also in the ICU, including factor 7. The 
hematology service was consulted. He had persistent high chest 
tube output, and was therefore taken back to the operating room 
on ___ for mediastinal exploration. The chest tube drainage 
slowed after his take-back and he extubated without incident. On 
post-operative day two his chest tubes and wires were removed. 
He was given Lasix and diuresed toward his pre-operative weight. 
He was given Lopressor, but went into atrial fibrillation on 
post-operative day two. As his INR is elevated at baseline, it 
was recommended that he not start Coumadin. Epixiban was started 
and a TEE was done to assess for clot before he was electrically 
cardioverted into sinus rhythm. His hematocrit drifted downward 
and he received a transfusion. His apixiban was discontinued. On 
post-operative day 16 he was discharged to ___ 
Rehab. His Hematocrit should be checked periodically while at 
rehab. An appointment has been made for follow-up with Dr. ___ 
___ Hematology but it is for ___, and the inpatient 
Hematology service felt that because of his high stroke risk he 
should be seen sooner. Dr. ___ will be calling 
___ with an appointment for ___ weeks from now.
 
Medications on Admission:
Pantoprazole 40 mg daily
Aspirin 81 mg daily
Metoprolol 12.5 mg TID
Amiodarone 200 mg daily
Plavix 75 mg daily
Levoquin 500 mg (started for PNA at ___
 
Discharge Medications:
1. Amiodarone 400 mg PO DAILY Duration: 1 Week 
take 400mg daily for one week, then decrease to 200mg daily 
ongoing 
2. Aspirin EC 81 mg PO DAILY 
3. Metoprolol Tartrate 6.25 mg PO Q6H 
4. Pantoprazole 40 mg PO Q24H 
5. Acetaminophen 325-650 mg PO Q6H:PRN pain 
6. Bisacodyl ___AILY:PRN constipation 
7. Docusate Sodium 100 mg PO BID 
8. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Milk of Magnesia 30 mL PO DAILY 
11. Furosemide 40 mg PO BID Duration: 7 Days 
12. Potassium Chloride 40 mEq PO DAILY Duration: 7 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic Dissection s/p aortic dissection repair
Past medical history:
Type B dissection dx ___ at ___ (no records)
Hypertension
Gout
CVA (just writing affected, ___
PFO (closed)
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage.
No edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___